US05968933
A solution of 4-fluorobenzonitrile (5.35 g, 44.2 mmol) in DMSO (30 mL) containing excess methylaminoethanol was heated with stirring to 120° C. for 8 h. The solution was then cooled and concentrated under reduced pressure. The crude residue was partitioned between H2O/EtOAc and the organic phase then washed with water (×2), dried (Na2SO4), filtered and concentrated and percolated through a pad of SiO2 (CH2Cl2 then EtOAc elution) to give 4-(N-methyl,N-(hydroxyethyl)amino)benzonitrile (5.6 g, 72% yield) as a colourless liquid, which was used without further purification. A solution of the above nitrile (5.6 g, 31.8 mmol) and Et3N (8.8 mL, 63.6 mmol) in dry CH2Cl2 (50 mL) was treated at 0° C. with MsCl (3.0 mL, 38.2 mmol). The mixture was stirred for 20 min and partitioned between aqueous NaHCO3 /EtOAc. The organic phase was then dried (Na2SO4), filtered and concentrated under reduced pressure to yield the crude mesylate, which was treated with excess LiCl in DMF (25 mL) at 140° C. for 5 min with rapid stirring. Excess DMF was removed under reduced pressure and the residue was partitioned between H2O/EtOAc. Workup of the organic layer and chromatography of the residue on SiO2 and elution with petroleum ether/EtOAc (3:1) afforded pure 4-(N-methyl,N-(2-chloroethyl)amino)benzonitrile (3.6 g, 58% yield), mp (petroleum ether/CH2Cl2) 104.5-105.5° C. 1H NMR (CDCl3) δ 7.48 (d, J2,3 =9.1 Hz, 2 H, H-2,H-6), 6.67 (d, J2,3 =9.1 Hz, 2 H, H-3, H-5), 3.74 (complex t, J=7.3 Hz, 2 H, NCH2CH2Cl), 3.64 (complex t, J=7.3 Hz, 2 H, NCH2CH2Cl), 3.09 (s, 3 H, NCH3); 13C NMR δ 150.95, 133.66, 120.30, 111.50, 98.50, 53.77, 40.16, 39.02. Anal. (C10H11ClN2) C,H,N.

reactant | 4-fluorobenzonitrile | 44.2 mmol, 5.35 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | methylaminoethanol | CNC(C)O | C3H9NO
reactant | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 4-(N-methyl,N-(hydroxyethyl)amino)benzonitrile | 5.6 g, 72% yield | CN(CCO)C1=CC=C(C#N)C=C1 | C10H12N2O
